US06723744B2
Step D: Preparation of 4,6-Dichloro-5-(4-hydroxy-3-isopropyl-phenoxy)-1-methyl-1H-indole-2-carboxylic acid
To a solution of 4,6-dichloro-5-(4-hydroxy-3-isopropyl-phenoxy)-1-methyl-1H-indole-2-carboxylic acid methyl ester (32 mg, 0.078 mmol) in 50% aqueous MeOH (4 mL) was added potassium hydroxide (3N, 154 μL). The resulting solution was stirred for 19 hours at room temperature, diluted with potassium hydroxide (0.1N, 16 mL) and the solution was washed with EtOAc (3 times 10 mL). The aqueous solution was acidified with concentrated hydrochloric acid and then extracted with ethyl acetate (3 times 15 mL). The combined organic extracts were washed with brine, dried (Na2SO4), filtered, and concentrated to afford the title compound (23 mg). 1H NMR (400 MHz, CD3OD) δ7.64 (s, 1H), 7.24 (s, 1H), 6.63 (d, 1H), 6.57 (d, 1H), 6.29-6.26 (dd, 1H), 4.03 (s, 3H), 3.22-3.15 (m, 1H), 1.11 (d, 6H). MS (APCI−) Calc: 393.0, Found: 392.2 (M−1).

reactant | 4,6-dichloro-5-(4-hydroxy-3-isopropyl-phenoxy)-1-methyl-1H-indole-2-carboxylic acid methyl ester | 0.078 mmol, 32 mg | COC(=O)C=1N(C2=CC(=C(C(=C2C1)Cl)OC1=CC(=C(C=C1)O)C(C)C)Cl)C | C20H19Cl2NO4
solvent | MeOH | 4 mL | CO | CH4O
solvent | potassium hydroxide | 0.1N, 16 mL | [OH-].[K+]
solvent | potassium hydroxide | 3N, 154 μL | [OH-].[K+]
product | 4,6-Dichloro-5-(4-hydroxy-3-isopropyl-phenoxy)-1-methyl-1H-indole-2-carboxylic acid | 23 mg | ClC1=C2C=C(N(C2=CC(=C1OC1=CC(=C(C=C1)O)C(C)C)Cl)C)C(=O)O | C19H17Cl2NO4
